US04243805
3-Fluoro-8-isopropyl-10-piperazino-10,11-dihydrodibenzo(b,f)thiepin
A mixture of 20 g of 10-chloro-3-fluoro-8-isopropyl-10,11-dihydrodibenzo(b,f)thiepin, 21 g of 1-(ethoxycarbonyl)piperazine and 30 ml of chloroform is refluxed for 5 hours. After cooling, it is diluted with chloroform, the solution thoroughly washed with water, dried with potassium carbonate and after filtration evaporated under reduced pressure. The residue (27 g, 96%) is a crude glassy 10-(ethoxycarbonylpiperazino)-3-fluoro-8-isopropyl-10,11-dihydrodibenzo(b,f)thiepin which is used for hydrolysis in this state without further purification.

reactant | 10-chloro-3-fluoro-8-isopropyl-10,11-dihydrodibenzo(b,f)thiepin | 20 g | ClC1CC2=C(SC3=C1C=C(C=C3)C(C)C)C=C(C=C2)F | C17H16ClFS
reactant | 1-(ethoxycarbonyl)piperazine | 21 g | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Fluoro-8-isopropyl-10-piperazino-10,11-dihydrodibenzo(b,f)thiepin | FC=1C=CC2=C(SC3=C(C(C2)N2CCNCC2)C=C(C=C3)C(C)C)C1 | C21H25FN2S
